US07902221B2
a. Preparation of 4-(2-ethyl-butylamino)-butan-1-ol
A mixture of 3-bromomethyl-pentane (3.0 g, 20 mmol) and 4-amino-1-butanol (5.06 mL, 55 mmol) in ethanol (20 mL) was heated at 75° C. for 16 h. The reaction mixture was concentrated and the resulting residue was diluted with dichloromethane (50 mL). The organic layer was partitioned with water (50 mL) and the aqueous layer extracted with dichloromethane (20 mL). Combined organic layers were dried over magnesium sulfate, filtered, and concentrated to give the title compound as an oil (2.8 g).

reactant | 3-bromomethyl-pentane | 20 mmol, 3.0 g | BrCC(CC)CC | C6H13Br
reactant | 4-amino-1-butanol | 55 mmol, 5.06 mL | NCCCCO | C4H11NO
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-(2-ethyl-butylamino)-butan-1-ol | 2.8 g | C(C)C(CNCCCCO)CC | C10H23NO
